US07429565B2
{2-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-ethoxymethyl}-phosphonic acid diisopropyl ester
A mixture of 6-(2-hydroxy-ethyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (79 mg, 0.23 mmol) was heated with bromomethylphosphonic acid diisopropyl ester (120 mg, 0.46 mmol) in the presence of lithium t-butoxide (22 mg, 0.27 mmol) in DMF (2 mL) at 70° C. overnight. The reaction mixture was purified by RP HPLC (acetonitrile and 0.1% aqueous CF3COOH) to provide the desired product. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 1.13-1.25 (m, 2H), 1.26 (t, 12H, J=6 Hz), 2.12 (s, 3H), 2.98 (t, 2H, J=7 Hz), 3.60-3.73 (m, 4H), 3.77 (s, 3H), 4.05-4.16 (m, 2H), 4.62-4.74 (m, 2H), 5.07 (s, 2H) ppm; MS (m/z) 539 [M+Na]+.

reactant | 6-(2-hydroxy-ethyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.23 mmol, 79 mg | OCCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC | C17H26O5Si
reactant | bromomethylphosphonic acid diisopropyl ester | 0.46 mmol, 120 mg | C(C)(C)OP(OC(C)C)(=O)CBr | C7H16BrO3P
reactant | lithium t-butoxide | 0.27 mmol, 22 mg | CC(C)([O-])C.[Li+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {2-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-ethoxymethyl}-phosphonic acid diisopropyl ester | C(C)(C)OP(OC(C)C)(=O)COCCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C | C24H41O8PSi
